US04954509
1-(pyrrolidin-1-yl)methyl-2-(3,4-dichlorophenyl)acetyl-8-hydroxy-1,2,3,4-tetrahydroisoquinoline
Prepared as Ex. No. 5, from 13.2 g (33.50 mmoles) of a mixture containing 1-(pyrrolidin-1-yl)methyl-8-hydroxy-1,2,3,4-tetrahydroisoquinoline dihydrobromide and 1-(pyrrolidin-1-yl)methyl-6-hydroxy-1,2,3,4-tetrahydroisoquinoline dihydrobromide, 9.6 g (46.8 mmoles) of 3,4-dichlorophenylacetic acid, 14 ml (99.6 mmoles) of triethylamine and 17 g (82.52 mmoles) of dicyclohexylcarbodiimide, in 280 ml of dry chloroform.

reactant | 1-(pyrrolidin-1-yl)methyl-8-hydroxy-1,2,3,4-tetrahydroisoquinoline dihydrobromide | Br.Br.N1(CCCC1)CC1NCCC2=CC=CC(=C12)O
reactant | 1-(pyrrolidin-1-yl)methyl-6-hydroxy-1,2,3,4-tetrahydroisoquinoline dihydrobromide | Br.Br.N1(CCCC1)CC1NCCC2=CC(=CC=C12)O
reactant | 3,4-dichlorophenylacetic acid | 46.8 mmoles, 9.6 g | ClC=1C=C(C=CC1Cl)CC(=O)O | C8H6Cl2O2
reactant | triethylamine | 99.6 mmoles, 14 ml | C(C)N(CC)CC | C6H15N
reactant | dicyclohexylcarbodiimide | 82.52 mmoles, 17 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | chloroform | 280 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(pyrrolidin-1-yl)methyl-2-(3,4-dichlorophenyl)acetyl-8-hydroxy-1,2,3,4-tetrahydroisoquinoline | N1(CCCC1)CC1(NCCC2=CC=CC(=C12)O)C(CC1=CC(=C(C=C1)Cl)Cl)=O | C22H24Cl2N2O2
